US04152441
2.19 g (0.09 gr.at.) of magnesium and 10.9 g (0.1 mol) of ethyl bromide were converted into a Grignard compound in 50 ml. of refluxing anhydrous tetrahydrofuran. In the course of 5 minutes a solution of 8.46 g (0.09 mol) of 1-vinylimidazole in 20 ml. of anhydrous tetrahydrofuran was added with stirring to the refluxing mixture, after which the reaction mixture was refluxed for another two hours. A suspension of 22.6 g (0.09 mol) of 4,4'-dichlorobenzophenone in 50 ml. of anhydrous tetrahydrofuran was then added and refluxing was continued for 24 hours. The whole procedure was carried out under a nitrogen atmosphere. After cooling, the reaction mixture was poured into a mixture of ice, water and ammonium chloride. The mixture was then extracted with diethyl ether and the extract was washed with water, dried over sodium sulphate and concentrated. The solid residue was twice crystallized from a mixture of isopropyl alcohol and dimethyl formamide. α,α-Bis(p-chlorophenyl)-1-vinylimidazole-2-methanol was obtained. Melting point 173.5°- 174° C.

reactant | magnesium | 2.19 g | [Mg] | Mg
reactant | ethyl bromide | 0.1 mol, 10.9 g | C(C)Br | C2H5Br
reactant | 1-vinylimidazole | 0.09 mol, 8.46 g | C(=C)N1C=NC=C1 | C5H6N2
reactant | 4,4'-dichlorobenzophenone | 0.09 mol, 22.6 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C13H8Cl2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | α,α-Bis(p-chlorophenyl)-1-vinylimidazole-2-methanol | ClC1=CC=C(C=C1)C(O)(C=1N(C=CN1)C=C)C1=CC=C(C=C1)Cl | C18H14Cl2N2O
